Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lymphadenopathy, Left temporal pain 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ man with no significant PMH who presented with an enlarged 
non-tender lymph node and 1 day of unilateral neck mass and a 
sharp lightening like headache in the left temple. Patient 
noticed a left neck mass on ___. He also began to have sharp 
sudden, "zinging" pains in his left temple yesterday afternoon 
that has been progressively worsening, and is now unbearable. 
Each episode of pain lasts ___ seconds at 9.5-10/10 intensity, 
and they occur every few minutes. The pain comes and goes very 
quickly, with very little time between onset of pain and maximal 
intensity. Pt notes associated conjunctival injection and 
unilateral eye watering. No f/c/ns, unintentional weight loss, 
dental pain, cough/hemoptysis, SOB, light-headedness/dizziness, 
melena/hematochezia. No recent travel, farm/animal exposure, 
sick contacts. Sexual history was deferred given presence of 
family members.  
 
In the ED, initial VS were 97.7 70 129/85 18 100% RA.  
 
Exam notable for Soft 2x3cm L submandibular mass without 
fluctuance.  
 
Labs were notable for:  
WBC 3.2 with 48.0% PMNs, 29.2 lymphs, 17.4 monos, 1.9 % 
basophils  
 
Imaging showed CT Neck w/ contrast:  
1. Multiple enlarged lymph nodes on the measuring up to 2.2 cm 
within the left sublingual station, 1.9 cm within the left 
submandibular station, and 1.7 cm within the left 
supraclavicular station.  
2. No evidence of focal fluid collections.  
 
Received 2L NS, morphine 4mg x2 and Tylenol with some relief of 
pain.  
Neurology was consulted who felt that sx could be ___ trigeminal 
neuralgia from V1 nerve irritation from LAD. They recommended 
carbamazepine for pain control and MRI for further evaluation of 
V1. They also recommended medicine admission for malignancy 
workup.  

Transfer VS were 98.2 80 136/84 19 98% RA.  
 
On arrival to the floor, patient reports continued bursts of 
pain.
 
Past Medical History:
Childhood asthma  
Alcohol use  
Seasonal allergies  
 
Social History:
___
Family History:
- mother: diabetes  
- father: history of throat cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - 98.7; 111/70; 70; 18; 100 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck. Left submandibular and 
supraclavicular LAD.  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. No allodynia on exam.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
VS - Tm 99.2, BP 116/70, HR 71, RR 18, O2 SAT 100 RA
GENERAL: NAD, resting comfortably on bed
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, No 
evidence of dental infection, teeth non-tender to palpation, 
tongue smooth and without lesions, gingiva unremarkable, There 
is a 3mm ulceration on the left side of the hard palate without 
adjacent erythema or soft-tissue swelling
NECK: nontender supple neck, no JVD, there is a ~1.5cm, spongy, 
poorly mobilizing but not matted lymph node palpable in the 
submandibular region. No superclavicular LAD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, sensation grossly intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LABS:
___ 10:15AM BLOOD WBC-3.7* RBC-6.28* Hgb-13.7 Hct-45.1 
MCV-72* MCH-21.8* MCHC-30.4* RDW-16.1* RDWSD-37.6 Plt ___
___ 10:15AM BLOOD Neuts-48.0 ___ Monos-17.4* 
Eos-3.2 Baso-1.9* Im ___ AbsNeut-1.79 AbsLymp-1.09* 
AbsMono-0.65 AbsEos-0.12 AbsBaso-0.07
___ 10:15AM BLOOD Plt ___
___ 10:15AM BLOOD Glucose-90 UreaN-8 Creat-0.9 Na-138 K-4.6 
Cl-103 HCO3-21* AnGap-19
___ 06:00AM BLOOD ALT-20 AST-22 AlkPhos-43 TotBili-0.4
___ 10:15AM BLOOD CRP-2.2

IMAGING:
___ IMAGING: 
CT HEAD: No acute intracranial abnormality. 

CT NECK: Multiple enlarged lymph nodes on the left measuring up 
to 2.2 cm, within the left submental (in the region of the 
external marker) and submandibular regions, extending along the 
left jugular chain.   The lymph nodes are likely reactive given 
adjacent stranding in the subcutaneous tissues.  However, the 
differential includes neoplasm and lymphoproliferative 
disorders. 

MICRO:
___: UA not suggestive of infection, Ucx No growth, Blood cxs 
pending
___: Lyme serologies pending

DISCHARGE LABS:
___ 10:44AM BLOOD WBC-4.7 RBC-6.34* Hgb-14.1 Hct-46.6 
MCV-74* MCH-22.2* MCHC-30.3* RDW-15.9* RDWSD-38.3 Plt ___
___ 10:44AM BLOOD Plt ___
___ 10:44AM BLOOD ___ PTT-31.4 ___
___ 10:44AM BLOOD Glucose-86 UreaN-6 Creat-1.3* Na-140 
K-4.0 Cl-102 HCO3-27 AnGap-15
___ 10:44AM BLOOD ALT-22 AST-22 AlkPhos-44 TotBili-0.3 
DirBili-<0.2 IndBili-0.3
___ 10:44AM BLOOD Albumin-4.3 Calcium-9.7 Phos-3.7 Mg-2.2
___ 06:00AM BLOOD PEP-NO SPECIFI FreeKap-PND FreeLam-PND
___ 10:44AM BLOOD HIV Ab-Negative
 
Brief Hospital Course:
Summary
___ year-old male with no significant past medical history who 
presents with an enlarged non-tender lymph node and new onset 
left V1 distribution trigeminal neuralgia. This improved with 
carbamazepine treatment however the underlying cause of 
lymphadenopathy was unclear. 

ACTIVE ISSUES:
# Lymphadenopathy
The patient was found to have multiple enlarged left-sided 
submandibular and sublingual lymph nodes. Etiology was unclear, 
but given the acuity and spontaneous regression, the most likely 
cause was felt to be reactive to self-limited infection. No 
signs of dental or facial infection were identified on exam, but 
we recommend that the patient follow up with his dentist for a 
routine examination. Head and neck malignancy is also a 
consideration given his alcohol use history. He was also 
recommended by neurology to have lyme lest, ___ and ___ 
which are pending at discharge. These will be followed up as an 
outpatient.  He may require biopsy of lymph nodes if they remain 
enlarged given risk factors for head and neck cancer.   

# Trigeminal Neuralgia
New trigeminal neuralgia in the left V1 distribution. This was 
felt to be secondary to the lymphadenopathy and he was evaluated 
by neurology as above. He was started on carbamazepine and his 
symptoms improved dramatically. MRI head was done and did not 
find acute trigeminal nerve impingement. He will follow with 
neurology as an outpatient. 

CHRONIC ISSUES:
# Alcohol withdrawal: The patient reports consuming many beers 
on most nights, and more on the weekends. He has no known 
history of withdrawal and has never had a seizure. He was placed 
on a CIWA scale, and consistently scored zero during 
hospitalization.

TRANSITIONAL ISSUES:
- The patient was started on carbamazepine 200mg BID for 
trigeminal neuralgia. His CBC, Chemistries, and LFTs were 
measured and should be monitored as appropriate for side effects 
of agranulocytosis, SIADH, and transaminitis. We aasked him to 
return for blood work on ___nd CBC. 
- He had a mild ___ on discharge, possible due to poor PO intake 
with trigeminal neuralgia and should have CMP checked as above. 
- If pain is not well controlled on above carbamazepine dose,
recommend stopping carbamazepine and starting oxcarbazepine 
300mg
BID (with increase to 600mg the following day if needed and up 
to
1200 within 48 hours); alternatively, gabapentin could be 
trialed
instead of carbamazepine (start at 300mg BID and titrate up to
600mg BID if needed). 
- The patient experienced left-sided submandibular and 
sublingual lymphadenopathy. This was attributed to reactive 
process and started to regress by discharge. This should be 
followed up in clinic to ensure resolution. 
- If this lymphadenopathy was reactive to infection, dental 
source is likely. Although no findings on our physical exam, we 
recommend that the patient follow up with his dentist for 
routine exam. 
- The patient describes drinking many beers almost every night. 
His use of alcohol should be further discussed in clinic to 
determine it's effect on his life and to assess his willingness 
to change this habit. If not improving, head and neck cancer is 
a consideration and ENT referral would be appropriate. 
- The patient's ___, protein electrophoresis, Ro/La and Lyme 
labs were pending at the time of discharge and should be 
followed up in clinic.
- His blood cultures from ___ were also pending at time of 
discharge.
- An HIV test that was pending at discharge is now resulted 
negative
- ___ Urine culture that was pending at discharge is now 
resulted: No Growth

CODE: Full (confirmed) 
COMMUNICATION: Patient 
EMERGENCY CONTACT HCP: ___ (mother) ___ 
 
Medications on Admission:
None.
 
Discharge Medications:
1. CarBAMazepine 200 mg PO BID 
RX *carbamazepine 200 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: Left-sided lymphadenopathy, Trigeminal 
Neuralgia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you had enlarged lymph nodes on the left side of your 
face, as well as severe pains around your left temple. We think 
this pain is from a condition called "Trigeminal Neuralgia." We 
gave you medication called carbamazepine which helped your pain. 
Your enlarged lymph nodes were shrinking by the time you left 
the hospital.

When you leave, please remember to take all of your medication 
as directed. Please follow up with your primary care doctor. 
Because swollen lymph nodes like yours can sometimes be caused 
by dental problems, we strongly recommend that you follow up 
with your dentist for a routine exam.

Thank you for allowing us to care for you here,
Your ___ care team
 
Followup Instructions:
___